US05143935
To a suspension of 0.99 g of lithium aluminium hydride in 15 ml of tetrahydrofuran, a solution of 3.03 g of (2S,4R)-4-azido 2-ethoxycarbonyl-N-ethyl pyrrolidine in 10 ml of tetrahydrofuran was dropwise added while cooling and the combined was stirred for 1 hour. Sirring was continued at room temperature for additional 2 hours, and then a mixture of 4.7 ml of aqueous 1N-NaOH solution and 33 ml of tetrahydrofuran was added to decompose excess amount of lithium aluminium hydride. After filtrating the mixture to remove undissolved substance, the filtrate was concentrated under reduced pressure to obtain (2S,4R)-4-amino-N-ethyl-2-hydroxymethyl pyrrolidine as an oily product. Yield 1.33 g.

reactant | lithium aluminium hydride | 0.99 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | (2S,4R)-4-azido 2-ethoxycarbonyl-N-ethyl pyrrolidine | 3.03 g | N(=[N+]=[N-])[C@@H]1C[C@H](N(C1)CC)C(=O)OCC | C9H16N4O2
reactant | NaOH | [OH-].[Na+]
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 33 ml | O1CCCC1 | C4H8O
product | (2S,4R)-4-amino-N-ethyl-2-hydroxymethyl pyrrolidine | N[C@@H]1C[C@H](N(C1)CC)CO | C7H16N2O
